US04980356
The procedure is as in Example 15, starting with 2-amino-6-trifluoromethoxybenzothiazole (9.4 g) and bromomethylcyclopropane (12.7 g) in 2-propanol (30 cc). The mixture is heated for 42 hours to boiling. After cooling of the reaction medium to a temperature in the region of 20° C., the precipitate is filtered off and recrystallized in a boiling mixture (30 cc) of ethyl acetate and methanol (80:20 by volume). 3-Cyclopropylmethyl-2-imino-6-trifluoromethoxybenzothiazoline hydrobromide (1.2 g), m.p. 220° C., is obtained.

reactant | 2-amino-6-trifluoromethoxybenzothiazole | 9.4 g | NC=1SC2=C(N1)C=CC(=C2)OC(F)(F)F | C8H5F3N2OS
reactant | bromomethylcyclopropane | 12.7 g | BrCC1CC1 | C4H7Br
solvent | 2-propanol | 30 cc | CC(C)O | C3H8O
product | 3-Cyclopropylmethyl-2-imino-6-trifluoromethoxybenzothiazoline hydrobromide | 1.2 g | Br.C1(CC1)CN1C(SC2=C1C=CC(=C2)OC(F)(F)F)=N | InChI=1S/C12H11F3N2OS.BrH/c13-12(14,15)18-8-3-4-9-10(5-8)19-11(16)17(9)6-7-1-2-7;/h3-5,7,16H,1-2,6H2;1H
